US07964607B2
(b) 1-isopropyl-6-[(3S,4S)-4-methyl-1-(quinoxalin-6-ylmethyl)pyrrolidin-3-yl]-1,5-dihydro-4H-pyrazolo[3,4-d]pyrimidin-4-one
Following the procedure for the preparation of 1-cyclopentyl-6-[(3,4-trans)-4-methyl-1-(pyridin-3-ylmethyl)pyrrolidin-3-yl]-1,5-dihydro-4H-pyrazolo[3,4-d]pyrimidin-4-one but substituting 1-isopropyl-6-[(3S,4S)-4-methylpyrrolidin-3-yl]-1H-pyrazolo[3,4-d]pyrimidin-4(5H)-one and quinoxaline-6-carbaldehyde provided the title compound. 400 MHz 1H NMR (CD3OD) δ 11.0 (brs, 1H), 8.81 (s, 2H), 8.13 (d, J=8.7, 1H), 8.01-7.92 (m, 3H), 5.01-4.94 (m, 1H), 4.01-3.88 (m, 2H), 3.37 (t, J=8.3, 1H), 3.05 (d, J=9.9, 1H), 2.86-2.85 (m, 1H), 2.70-2.68 (m, 1H), 2.49-2.44 (m, 1H), 2.07-2.01 (m, 1H). 1.48 (dd, J=15.3, 6.6 Hz, 6H), 1.20 (d, J=7.05 Hz, 3H). MS: (M+H m/z 404.1).

reactant | 1-isopropyl-6-[(3S,4S)-4-methylpyrrolidin-3-yl]-1H-pyrazolo[3,4-d]pyrimidin-4(5H)-one | C(C)(C)N1N=CC2=C1N=C(NC2=O)[C@@H]2CNC[C@H]2C | C13H19N5O
reactant | quinoxaline-6-carbaldehyde | N1=CC=NC2=CC(=CC=C12)C=O | C9H6N2O
product | 1-isopropyl-6-[(3S,4S)-4-methyl-1-(quinoxalin-6-ylmethyl)pyrrolidin-3-yl]-1,5-dihydro-4H-pyrazolo[3,4-d]pyrimidin-4-one | C(C)(C)N1N=CC2=C1N=C(NC2=O)[C@@H]2CN(C[C@H]2C)CC=2C=C1N=CC=NC1=CC2 | C22H25N7O
